US04780477
By using the 7-bromo-5-methylisatin and 2-diisopropylaminoethyl chloride hydrochloride, a method analogous to that described in Reference Example 1 was carried out to obtain 7-bromo-1-(2-diisopropylaminoethyl)-5-methylisatin having a melting point of 94°-97° C. (yield: 13.1%).

reactant | 7-bromo-5-methylisatin | BrC=1C=C(C=C2C(C(NC12)=O)=O)C | C9H6BrNO2
reactant | 2-diisopropylaminoethyl chloride hydrochloride | Cl.C(C)(C)N(CCCl)C(C)C
product | 7-bromo-1-(2-diisopropylaminoethyl)-5-methylisatin | yield: 13.1% | BrC=1C=C(C=C2C(C(N(C12)CCN(C(C)C)C(C)C)=O)=O)C | C17H23BrN2O2
